US07259177B2
4-(cis-3-Allylcyclohexyloxymethyl)-2-(3-methoxyphenyl)-5-methyloxazole
1.8 g of cis-3-allylcyclohexanol are dissolved in 20 ml of dimethyl-formamide, and 770 mg of sodium hydride (60% strength suspension in paraffin oil) are added. After 30 minutes, 4 g of 4-iodomethyl-5-methyl-2-(3-methoxyphenyl)oxazole, dissolved in 20 ml of dimethylformamide, are added dropwise. The mixture is stirred at room temperature for 1 hour. 200 ml of methyl tert-butyl ether are then added to the reaction mixture, and the mixture is washed three times with water. The organic phase is dried over MgSO4 and the solvent is then removed under reduced pressure. The residue is purified on silica gel using the mobile phase n-heptane:ethyl acetate=10:1. This gives 750 mg of 4-(cis-3-allyl-cyclohexyloxymethyl)-2-(3-meLhoxpheny,”-5-methyloxazole as an Oil. C21H27NO3 (341.45), MS(ESI): 342 (M+H+), Rf(n-heptane:ethyl acetate=2:1)=0.26.

reactant | cis-3-allylcyclohexanol | 1.8 g | C(C=C)[C@H]1C[C@H](CCC1)O | C9H16O
reactant | sodium hydride | 770 mg | [H-].[Na+]
reactant | 4-iodomethyl-5-methyl-2-(3-methoxyphenyl)oxazole | 4 g | ICC=1N=C(OC1C)C1=CC(=CC=C1)OC | C12H12INO2
reactant | methyl tert-butyl ether | 200 ml | C(C)(C)(C)OC | C5H12O
solvent | dimethyl-formamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(cis-3-Allylcyclohexyloxymethyl)-2-(3-methoxyphenyl)-5-methyloxazole | C(C=C)[C@H]1C[C@H](CCC1)OCC=1N=C(OC1C)C1=CC(=CC=C1)OC | C21H27NO3
